US06574704B1
And, if the obtained result at this step SP12 is yes, then the CPU 15 returns to the step SP10, and, after this time, repeats the loop of the steps SP10-SP11-SP12-SP10 until the negative result is obtained at the step SP12; in this way, the file data of all files which have been stored in the very “media set” and not yet copied are copied into the “media set” that is newly created.

reactant | SP10 | C1=CC(=C(C(=O)C=C1)O)C2=CN=CN=C2 | C11H8N2O2
reactant | SP10 SP11 SP12 SP10 | C1=CC(=C(C(=O)C=C1)O)C2=CN=CN=C2.COC1=CC=CC=C(C1=O)C2=CN=CN=C2.CC(=O)OC1=CC(=C(C(=O)C(=C1)OC(=O)C)OC(=O)C)OC(=O)C.C1=CC(=C(C(=O)C=C1)O)C2=CN=CN=C2
product | SP12 | CC(=O)OC1=CC(=C(C(=O)C(=C1)OC(=O)C)OC(=O)C)OC(=O)C | C15H14O9
